US09278915B2
Intermediate 77: Methyl (4-iodo-3-methyl-1,2-oxazol-5-yl)acetate
To a sealed tube fitted with magnetic stirrer was charged methyl (3-methyl-1,2-oxazol-5-yl)acetate (0.9 g, 5.8 mmol) and N-iodosuccinimide (2.61 g, 11.6 mmol) in 10 mL trifluoroacetic acid. The reaction mixture was heated at 65° C. for 3 h. The RM was quenched with NaHCO3 solution (25 mL) and extracted with ethyl acetate (30 mL). The organic layer was washed with water (30 mL) and saturated brine solution (30 mL). The organic layer was dried over anhydrous Na2SO4 and the solvent was removed under reduced pressure. The product was obtained as brown solid (1.18 g, yield: 72.4%).

reactant | methyl (3-methyl-1,2-oxazol-5-yl)acetate | 5.8 mmol, 0.9 g | CC1=NOC(=C1)CC(=O)OC | C7H9NO3
reactant | N-iodosuccinimide | 11.6 mmol, 2.61 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
product | Methyl (4-iodo-3-methyl-1,2-oxazol-5-yl)acetate | 1.18 g, yield: 72.4% | IC=1C(=NOC1CC(=O)OC)C | C7H8INO3
